US20010056188A1
1) 2-(4-Chlorophenylsulfonyl)-3-(3-cyanophenylamino)-3-methylsulfanyl-2-propenenitrile
A solution of 4-chlorophenylsulfonylacetonitrile (1.0 g, 4.64 mmol) in dry acetone (10 ml) was stirred while dry potassium carbonate (1.28 g, 9.28 mmol) and 3-cyanophenyl isothiocyanate (0.78 g, 4.87 mmol) were added. The resulting mixture was stirred at room temperature under nitrogen for 20 h. Excess of potassium carbonate was filtered off, methyl iodide (0.859 ml, 13.9 mmol) was added to the filtrate, and stirring was continued for 3 h. The mixture was evaporated and the residue was dissolved in dichloromethane and extracted with water and brine. The organic phase was dried over magnesium sulphate, filtered and evaporated to afford 1.74 g (96%) of the title compound as golden brown crystals. Mp 168-170° C. 1H NMR (200 MHz, CDCl3): δ=2.22 (s, 3H), 7.50-7.68 (m, 6H), 7.84-7.93(m, 2H),9.89 (brs, 1H).

reactant | 4-chlorophenylsulfonylacetonitrile | 4.64 mmol, 1.0 g | ClC1=CC=C(C=C1)S(=O)(=O)CC#N | C8H6ClNO2S
reactant | potassium carbonate | 9.28 mmol, 1.28 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-cyanophenyl isothiocyanate | 4.87 mmol, 0.78 g | C(#N)C=1C=C(C=CC1)N=C=S | C8H4N2S
reactant | methyl iodide | 13.9 mmol, 0.859 ml | CI | CH3I
solvent | acetone | 10 ml | CC(=O)C | C3H6O
product | 2-(4-Chlorophenylsulfonyl)-3-(3-cyanophenylamino)-3-methylsulfanyl-2-propenenitrile | 1.74 g, 96% | ClC1=CC=C(C=C1)S(=O)(=O)C(C#N)=C(SC)NC1=CC(=CC=C1)C#N | C17H12ClN3O2S2
